US03978064
3-ethylaminomethylene-6,7-dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydro-1-quinoline carboxylic acid, ethyl ester;
n-propylaminomethylene-6,7-dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydro-1-quinoline carboxylic acid, ethyl ester; n-butylaminomethylene-6,7-dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydro-1-quinoline carboxylic acid, ethyl ester; s-butylaminomethylene-6,7-dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydro-1-carboxylic acid, ethyl ester; t-butylaminomethylene-6,7-dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydro-1-quinoline carboxylic acid, ethyl ester; n-amylaminomethylene-6,7-dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydro-1-quinoline carboxylic acid, ethyl ester; s-amylaminomethylene-6,7-dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydro-1-quinoline carboxylic acid, ethyl ester; and t-amylaminomethylene-6,7-dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydro-1-quinoline carboxylic acid, ethyl ester.

reactant | n-propylaminomethylene-6,7-dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydro-1-quinoline carboxylic acid, ethyl ester | C(CC)NC=C1C(N(C2=CC(=C(C=C2C1=O)OC)OC)C(=O)OCC)C | C19H26N2O5
reactant | n-butylaminomethylene-6,7-dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydro-1-quinoline carboxylic acid, ethyl ester | C(CCC)NC=C1C(N(C2=CC(=C(C=C2C1=O)OC)OC)C(=O)OCC)C | C20H28N2O5
reactant | t-butylaminomethylene-6,7-dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydro-1-quinoline carboxylic acid, ethyl ester | C(C)(C)(C)NC=C1C(N(C2=CC(=C(C=C2C1=O)OC)OC)C(=O)OCC)C | C20H28N2O5
reactant | t-amylaminomethylene-6,7-dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydro-1-quinoline carboxylic acid, ethyl ester | C(C)(C)(CC)NC=C1C(N(C2=CC(=C(C=C2C1=O)OC)OC)C(=O)OCC)C | C21H30N2O5
product | 3-ethylaminomethylene-6,7-dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydro-1-quinoline carboxylic acid, ethyl ester | C(C)NC=C1C(N(C2=CC(=C(C=C2C1=O)OC)OC)C(=O)OCC)C | C18H24N2O5
